* C:\Users\prana\Documents\LTspice\SPICEModels\IC555.asc
.subckt IC555 1 2 3 4 5 6 7 8
A1 N006 N004 0 0 0 N001 0 0 SRFLOP
A2 N001 0 0 0 0 3 0 0 BUF
R1 8 5 5k
R2 5 N009 5k
R3 N009 1 5k
V2 V+ 0 9
V3 0 V- 9
Q1 N004 4 8 0 PNP
Q2 7 N001 0 0 NPN
XU3 6 5 V+ V- N004 uA741
XU4 N009 2 V+ V- N006 uA741
.model NPN NPN
.model PNP PNP
.lib C:\Users\prana\AppData\Local\LTspice\lib\cmp\standard.bjt
* 555 Timer
.lib OpAmp.lib
.backanno
.ends IC555
.end
